US04438270
To a solution of 2-acetylamino-5-amino-2-difluoromethylpentanoic acid (0.45 g) in 4 ml of 0.5 M aqueous sodium hydroxide is added 1.8 g of ethylthiouroniumhydrobromide. the pH of the solution is adjusted to 9 with a solution of sodium hydroxide and maintained at that pH for 24 hours. The reaction mixture is then neutralized to a pH of 7 with hydrochloric acid and 2-acetylamino-2-difluoromethyl-5-guanidinopentanoic acid is isolated by ion exchange chromatography on an Amberlite IR 120 resin.

reactant | 2-acetylamino-5-amino-2-difluoromethylpentanoic acid | 0.45 g | C(C)(=O)NC(C(=O)O)(CCCN)C(F)F | C8H14F2N2O3
reactant | ethylthiouroniumhydrobromide | 1.8 g | Br.C(C)[NH+]=C(S)N
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 0.5 M, 4 ml | [OH-].[Na+]
product | 2-acetylamino-2-difluoromethyl-5-guanidinopentanoic acid | C(C)(=O)NC(C(=O)O)(CCCNC(=N)N)C(F)F | C9H16F2N4O3
